US07678917B2
In analogy to example 11A (1R,3S,4S)-3-azido-4-hydroxy-cyclopentanecarboxylic acid methyl ester (CAS 213742-85-9) was reacted with (bromomethyl)cyclopropane to give (3S,4S)-3-azido-4-cyclopropylmethoxy-cyclopentanecarboxylic acid methyl ester. Colorless oil.

reactant | (1R,3S,4S)-3-azido-4-hydroxy-cyclopentanecarboxylic acid methyl ester | COC(=O)[C@@H]1C[C@@H]([C@H](C1)O)N=[N+]=[N-] | C7H11N3O3
reactant | (bromomethyl)cyclopropane | BrCC1CC1 | C4H7Br
product | (3S,4S)-3-azido-4-cyclopropylmethoxy-cyclopentanecarboxylic acid methyl ester | COC(=O)C1C[C@@H]([C@H](C1)OCC1CC1)N=[N+]=[N-] | C11H17N3O3
